US08809339B2
2-(3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzamido)-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide
Into a 10-mL round bottom flask, was placed a solution of 3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid (118.8 mg, 0.45 mmol, 1.50 equiv) in dichloromethane (24 mL), EDC.HCl (171.6 mg, 0.90 mmol, 3.00 equiv), 4-dimethylaminopyridine (182.4 mg, 1.49 mmol, 5.00 equiv), and 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide (120 mg, 0.29 mmol, 1.00 equiv). The resulting solution was stirred for 8 h at 25° C. in an oil bath. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 139.2 mg (62%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.37 (s, 1H), 11.30 (s, 1H), 8.75 (d, J=6 Hz, 2H), 8.22 (d, J=9 Hz, 1H), 8.054 (s, 1H), 7.93 (d, J=6.3 Hz, 1H), 7.68˜7.60 (m, 2H), 7.53 (s, 1H), 7.31˜7.20 (m, 3H), 7.15 (d, J=7.2 Hz, 1H), 3.40˜3.12 (m, 13H), 2.59 (s, 2H), 2.32˜2.27 (m, 4H), 2.16 (s, 3H), 1.68 (m, 4H), 1.58˜1.57 (m, 2H), 1.21˜1.16 (m, 6H). MS (ES, m/z): 648 [M−H]+.

reactant | 3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzoic acid | 0.45 mmol, 118.8 mg, 1.50 equiv | C(C)N(CCN(C)CC=1C=C(C(=O)O)C=CC1)CC | C15H24N2O2
reactant | EDC.HCl | 0.90 mmol, 171.6 mg, 3.00 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide | 0.29 mmol, 120 mg, 1.00 equiv | NC1=C(C(=O)NC2=NC=C(C=N2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C24H27N5O
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.49 mmol, 182.4 mg, 5.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(3-(((2-(diethylamino)ethyl)(methyl)amino)methyl)benzamido)-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-5-(piperidin-1-yl)benzamide | 139.2 mg, 62% | C(C)N(CCN(C)CC=1C=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=N3)C3=CC(=C(C=C3)C)C)C=C(C=C2)N2CCCCC2)C=CC1)CC | C39H49N7O2
